US06569854B1
1.6 g of 3-methylglutaric anhydride and then 1.48 cm3 of N-methylpiperazine are added to 20 cm3 of dioxane. After stirring for 4 hours, an additional 320 mg of 3-methylglutaric anhydride are added. The stirring is continued at 20° C. for 18 hours. The solvent is evaporated under reduced pressure (2.7 kPa), at 50° C. The resulting oil is dried at 50° C. (90 Pa) to give 3.1 g of (3RS)-3-methyl-5-(4-methylpiperazin-1-yl)-5-oxopentanoic acid in the form of a yellow lacquer which is used as it is.

reactant | 3-methylglutaric anhydride | 1.6 g | CC1CC(=O)OC(C1)=O | C6H8O3
reactant | N-methylpiperazine | 1.48 cm3 | CN1CCNCC1 | C5H12N2
reactant | 3-methylglutaric anhydride | 320 mg | CC1CC(=O)OC(C1)=O | C6H8O3
solvent | dioxane | 20 cm3 | O1CCOCC1 | C4H8O2
product | (3RS)-3-methyl-5-(4-methylpiperazin-1-yl)-5-oxopentanoic acid | 3.1 g | CC(CC(=O)O)CC(=O)N1CCN(CC1)C | C11H20N2O3
